US04435403
30 mg of sodium is dissolved in 15 ml of absolute methanol. Then, 300 mg of 4-methoxymethyl-beta-carboline-3-carboxylic-acid-ethylester is added and the mixture is heated with reflux for 2 h. The cooled solution is poured into a sodium dihydrogen phosphate solution and extracted with ethyl acetate. Crystallization in hexane/methylene-chloride yields 270 mg of 4-methoxymethyl-beta-carboline-3-carboxylic-acid-methylester with a m.p. 134°-135° C.

reactant | sodium | 30 mg | [Na] | Na
reactant | 4-methoxymethyl-beta-carboline-3-carboxylic-acid-ethylester | 300 mg | C(C)OC(=O)C=1N=CC=2NC3=CC=CC=C3C2C1COC | C16H16N2O3
reactant | sodium dihydrogen phosphate | P(=O)(O)(O)[O-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 4-methoxymethyl-beta-carboline-3-carboxylic-acid-methylester | 270 mg | COC(=O)C=1N=CC=2NC3=CC=CC=C3C2C1COC | C15H14N2O3
